### PR TITLE
[Merged by Bors] - feat: algebraic maps in LocallyConstant

### PR DESCRIPTION
**Pull request by dagurtomas**
We define more algebraic versions of `LocallyConstant.comap` and evaluation of locally constant maps, continuing the work of #6396. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 1]
```diff
@@ -291,48 +291,149 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
...
+
+/-- Evaluation as a `MonoidHom` -/
+@[to_additive "Evaluation as an `AddMonoidHom`"]
+def evalMonoidHom [MulOneClass Z] (x : X) : LocallyConstant X Z →* Z where
+  toFun f := f x
+  map_mul' _ _ := by simp only [LocallyConstant.coe_mul, Pi.mul_apply]
+  map_one' := rfl
+
+/-- Evaluation as a linear map -/
+def evalₗ [Semiring R] [AddCommMonoid Z]
```
Comment (eric-wieser) [inline Mathlib/Topology/LocallyConstant/Algebra.lean:304]:
```suggestion
@[simps] def evalₗ [Semiring R] [AddCommMonoid Z]
```
throughout

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 2]
```diff
@@ -291,48 +291,149 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
 
 end Algebra
 
+section Eval
+
+/-- Evaluation as a `MonoidHom` -/
+@[to_additive "Evaluation as an `AddMonoidHom`"]
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Algebra.lean:297]:
```suggestion
@[to_additive (attr := simps) "Evaluation as an `AddMonoidHom`"]
```

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 3]
```diff
@@ -291,48 +291,149 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
...
+def evalMonoidHom [MulOneClass Z] (x : X) : LocallyConstant X Z →* Z where
+  toFun f := f x
+  map_mul' _ _ := by simp only [LocallyConstant.coe_mul, Pi.mul_apply]
+  map_one' := rfl
+
+/-- Evaluation as a linear map -/
+def evalₗ [Semiring R] [AddCommMonoid Z]
+  [Module R Z] (x : X) : LocallyConstant X Z →ₗ[R] Z where
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Algebra.lean:305]:
```suggestion
    [Module R Z] (x : X) : LocallyConstant X Z →ₗ[R] Z where
```

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 4]
```diff
@@ -291,48 +291,149 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
...
+
+/-- Evaluation as an `AlgHom` -/
+def evalₐ [CommSemiring R] [Semiring Z] [Algebra R Z] (x : X) :
+    LocallyConstant X Z →ₐ[R] Z where
+  toFun f := f x
+  map_one' := (evalMonoidHom x).map_one'
+  map_mul' := (evalMonoidHom x).map_mul'
+  map_zero' := (evalAddMonoidHom x).map_zero'
+  map_add' := (evalAddMonoidHom x).map_add'
+  commutes' r := by simp only [coe_algebraMap, Pi.algebraMap_apply]
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Algebra.lean:326]:
```suggestion
@[simps!]
def evalₐ (R : Type*) [CommSemiring R] [Semiring Z] [Algebra R Z] (x : X) :
    LocallyConstant X Z →ₐ[R] Z where
  toRingHom := evalRingHom x
  commutes' r := by simp
```
Here the `simp` call has to use quite a lot of the lemmas generated by `simps`. But in that case keeping it as `simp` is perfectly fine, and even easier to maintain.

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 5]
```diff
@@ -291,48 +291,149 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
...
+end Eval
+
 section Comap
 
 variable [TopologicalSpace Y]
 
-/-- `LocallyConstant.comap` is a `MonoidHom`. -/
-@[to_additive "`LocallyConstant.comap` is an `AddMonoidHom`."]
+/-- `LocallyConstant.comap` as a `MulHom`. -/
+@[to_additive "`LocallyConstant.comap` as an `AddHom`."]
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Algebra.lean:335]:
```suggestion
@[to_additive (attr := simps) "`LocallyConstant.comap` as an `AddHom`."]
```

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 6]
```diff
@@ -291,48 +291,149 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
...
+def evalMonoidHom [MulOneClass Z] (x : X) : LocallyConstant X Z →* Z where
+  toFun f := f x
+  map_mul' _ _ := by simp only [LocallyConstant.coe_mul, Pi.mul_apply]
+  map_one' := rfl
+
+/-- Evaluation as a linear map -/
+def evalₗ [Semiring R] [AddCommMonoid Z]
+  [Module R Z] (x : X) : LocallyConstant X Z →ₗ[R] Z where
+  toFun f := f x
+  map_add' := (evalAddMonoidHom x).map_add'
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Topology/LocallyConstant/Algebra.lean:307]:
```suggestion
  __ := evalAddMonoidHom x
```
might be better here

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 7]
```diff
@@ -291,48 +291,149 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
...
+  map_smul' _ _ := by simp only [coe_smul, Pi.smul_apply, RingHom.id_apply]
+
+/-- Evaluation as a `RingHom` -/
+def evalRingHom [Semiring Z] (x : X) : LocallyConstant X Z →+* Z where
+  toFun f := f x
+  map_one' := (evalMonoidHom x).map_one'
+  map_mul' := (evalMonoidHom x).map_mul'
+  map_zero' := (evalAddMonoidHom x).map_zero'
+  map_add' := (evalAddMonoidHom x).map_add'
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Topology/LocallyConstant/Algebra.lean:316]: The concerns with `with` do not really apply to `def`s I think; only `instance`s

File: Mathlib/Topology/LocallyConstant/Algebra.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Topology/LocallyConstant/Algebra.lean:326]: Doesn't `rfl` prove this goal?

File: Mathlib/Topology/LocallyConstant/Algebra.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/LocallyConstant/Algebra.lean:316]: Well the point was that they created slow defeqs right? Or is your point that "defeq" for the typeclass system is not exactly the same as "defeq" in proofs?

File: Mathlib/Topology/LocallyConstant/Algebra.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/LocallyConstant/Algebra.lean:307]: I had no idea this syntax existed :sweat_smile: Does it allow filling up multiple fields? Does it introduces the same kind of terms as `with`?

**Comment by dagurtomas** [comment]
I see, thanks! The reason I wanted to define the `toFun` explicitly for all of these was that it was so annoying to have to unfold the nested definitions when I wanted to access the underlying function. But if `@[simps]` takes care of that, I agree this is better.

File: Mathlib/Topology/LocallyConstant/Algebra.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/LocallyConstant/Algebra.lean]: Well I checked and it does exactly the same thing as `with`, which is a bit annoying. But as Eric pointed below it's not that bad for defs that are not instances (from what I understand, defeq might be slower, but with a good simp-set we don't need to rely on defeq as much). So let's keep it like that.

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 8]
```diff
@@ -291,48 +291,118 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
...
+@[simps!] def evalRingHom [Semiring Z] (x : X) : LocallyConstant X Z →+* Z where
+  toMonoidHom := evalMonoidHom x
+  __ := (evalAddMonoidHom x)
+
+/-- Evaluation as an `AlgHom` -/
+@[simps!]
+def evalₐ (R : Type*) [CommSemiring R] [Semiring Z] [Algebra R Z] (x : X) :
+    LocallyConstant X Z →ₐ[R] Z where
+  toRingHom := evalRingHom x
+  commutes' r := by rfl
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Algebra.lean:320]:
```suggestion
  commutes' _ := rfl
```

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 9]
```diff
@@ -291,48 +291,118 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
...
+  toFun f := f x
+  map_mul' _ _ := by simp only [LocallyConstant.coe_mul, Pi.mul_apply]
+  map_one' := rfl
+
+/-- Evaluation as a linear map -/
+@[simps] def evalₗ (R : Type*) [Semiring R] [AddCommMonoid Z]
+    [Module R Z] (x : X) : LocallyConstant X Z →ₗ[R] Z where
+  toFun f := f x
+  map_add' := map_add (evalAddMonoidHom x)
+  map_smul' _ _ := by simp only [coe_smul, Pi.smul_apply, RingHom.id_apply]
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Algebra.lean:308]:
```suggestion
  map_smul' _ _ := rfl
```

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 10]
```diff
@@ -291,48 +291,118 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
...
 end Algebra
 
+section Eval
+
+/-- Evaluation as a `MonoidHom` -/
+@[to_additive (attr := simps) "Evaluation as an `AddMonoidHom`"]
+def evalMonoidHom [MulOneClass Z] (x : X) : LocallyConstant X Z →* Z where
+  toFun f := f x
+  map_mul' _ _ := by simp only [LocallyConstant.coe_mul, Pi.mul_apply]
+  map_one' := rfl
```
Comment (eric-wieser) [inline Mathlib/Topology/LocallyConstant/Algebra.lean:301]:
```suggestion
def evalMonoidHom [MulOneClass Z] (x : X) : LocallyConstant X Z →* Z :=
  (Pi.evalMonoidHom x).comp coeFnMonoidHom
```
or similar, same throughout

Comment (dagurtomas) [reply Mathlib/Topology/LocallyConstant/Algebra.lean]: I made these changes, but had to define more algebraic versions of `coeFn` to do so. There was also no linear version of `Pi.eval`, and since the file `Mathlib/Algebra/Module/Pi` doesn't know about linear maps, I added it to `Mathlib/Algebra/Module/LinearMap` (`#find_home` agrees with this location). Is this what you had in mind?

File: Mathlib/Algebra/Module/LinearMap.lean [hunk 11]
```diff
@@ -1246,3 +1246,9 @@ theorem End.intCast_def (z : ℤ) [AddCommGroup N₁] [Module R N₁] :
 #align module.End.int_cast_def Module.End.intCast_def
 
 end Module
+
+/-- `Function.eval` as a linear map. -/
+@[simps!] def Pi.evalₗ (I : Type u)  (f : I → Type v) (R) [Semiring R]
```
Comment (ADedecker) [inline Mathlib/Algebra/Module/LinearMap.lean:1251]: This is [LinearMap.proj](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Pi.html#LinearMap.proj). Yes, the naming is a bit inconsistent...

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 12]
```diff
@@ -291,48 +291,133 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
 
 end Algebra
 
+section coeFn
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Algebra.lean:294]: Could you move `coeFnMonoidHom` to this section too?

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 13]
```diff
@@ -291,48 +291,133 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
...
+
+/-- `FunLike.coe` as a `RingHom`. -/
+@[simps!] def coeFnRingHom [Semiring Y] : LocallyConstant X Y →+* X → Y where
+  toMonoidHom := coeFnMonoidHom
+  __ := coeFnAddMonoidHom
+
+/-- `FunLike.coe` as a linear map. -/
+@[simps] def coeFnₗ (R : Type*) [Semiring R] [AddCommMonoid Y]
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Algebra.lean:302]:
```suggestion
@[simps!] def coeFnₗ (R : Type*) [Semiring R] [AddCommMonoid Y]
```

You can see the generated lemmas by adding `?`, and in general it's always better to check them. Here, you see that without the `!` the lemma contains `ZeroHom.toFun`, which is bad because it's not in `simp` normal form. One of the things the `!` does is applying `simp` to the right hand side of the generated lemma to make sure that this doesn't happen. This is a bit slower so it's not the case by default, but you should basically never hesitate to do it if the lemma gets better.

File: Mathlib/Topology/LocallyConstant/Basic.lean [hunk 14]
```diff
@@ -592,15 +592,15 @@ section Equiv
     homeomorphism `X ≃ₜ Y` -/
 noncomputable
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Basic.lean:593]:
```suggestion
@[simps]
noncomputable
```

You can check the lemmas generated by `@[simps]` on `congrLeftₗ` before and after this change to see the difference!

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 15]
```diff
@@ -291,48 +291,133 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
...
-  map_smul' := (comapₗ _ e.continuous_invFun).map_smul'
-  map_add' := (comapAddMonoidHom _ e.continuous_invFun).map_add'
-  invFun := (congrLeft e).invFun
-  left_inv := (congrLeft e).left_inv
-  right_inv := (congrLeft e).right_inv
+  toLinearMap := comapₗ R _ e.symm.continuous
+  __ := congrLeft e
+
+/-- `LocallyConstant.congrLeft` as a `RingEquiv`. -/
+noncomputable
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Algebra.lean:407]:
```suggestion
@[simps!]
noncomputable
```

File: Mathlib/Algebra/Module/LinearMap.lean (hunk 11 above)
Comment (dagurtomas) [reply Mathlib/Algebra/Module/LinearMap.lean:1251]: That's annoying! Should I add an alias so we have both names?

Comment (ADedecker) [reply Mathlib/Algebra/Module/LinearMap.lean:1251]: Adding an alias would only postpone the problem, since all lemmas about it will still have `proj` in their name. Granted, that's a bit better for discoverability, but I think the real solution is just to change this name if people on Zulip agree (and in an other PR of course!)

File: Mathlib/Topology/LocallyConstant/Algebra.lean (hunk 12 above)
Comment (dagurtomas) [reply Mathlib/Topology/LocallyConstant/Algebra.lean:294]: This means the `DistribMulAction` and `Module` instances have to move to this section as well (they are necessary to define `coeFnₗ` and depend on `coeFnAddMonoidHom`). I'm fine with that change and I'll push it, but I don't feel strongly about it and can move them back if needed.

Comment (ADedecker) [reply Mathlib/Topology/LocallyConstant/Algebra.lean:278]: Ah it's probably best not to move anything then, sorry!

File: Mathlib/Algebra/Module/LinearMap.lean (hunk 11 above)
Comment (dagurtomas) [reply Mathlib/Algebra/Module/LinearMap.lean]: Ok, I've created a [poll](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/LinearMap.2Eproj/near/385549555) on Zulip. Now that I think about it, the `proj` name seems more natural for dependent functions, but `eval` for non-dependent ones.

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 16]
```diff
@@ -291,48 +292,134 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
...
     (hf : Continuous f) (hfs : Function.Surjective f) :
-    LinearMap.ker (comapₗ f hf : LocallyConstant Y Z →ₗ[R] LocallyConstant X Z) = ⊥ :=
+    LinearMap.ker (comapₗ R f hf : LocallyConstant Y Z →ₗ[R] LocallyConstant X Z) = ⊥ :=
   LinearMap.ker_eq_bot_of_injective <| comap_injective _ hf hfs
 
-/-- `LocallyConstant.congrLeft` is a linear equivalence. -/
+/-- `LocallyConstant.congrLeft` as a `MulEquiv`. -/
+@[to_additive (attr := simps!) "`LocallyConstant.congrLeft` as an `AddEquiv`."]
+noncomputable
+def congrLeftMul [Mul Z] (e : X ≃ₜ Y) :
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Algebra.lean:394]:
```suggestion
def congrLeftMulEquiv [Mul Z] (e : X ≃ₜ Y) :
```

File: Mathlib/Topology/LocallyConstant/Algebra.lean [hunk 17]
```diff
@@ -291,48 +292,134 @@ theorem coe_algebraMap (r : R) : ⇑(algebraMap R (LocallyConstant X Y) r) = alg
...
-  invFun := (congrLeft e).invFun
-  left_inv := (congrLeft e).left_inv
-  right_inv := (congrLeft e).right_inv
+  toLinearMap := comapₗ R _ e.symm.continuous
+  __ := congrLeft e
+
+/-- `LocallyConstant.congrLeft` as a `RingEquiv`. -/
+@[simps!]
+noncomputable
+def congrLeftRing [Semiring Z] (e : X ≃ₜ Y) :
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyConstant/Algebra.lean:410]:
```suggestion
def congrLeftRingEquiv [Semiring Z] (e : X ≃ₜ Y) :
```

**Review by ADedecker — COMMENTED** [review]
Thanks, and sorry for the slow review!

bors d+
